US04929741
A solution of 5 g (33 mmol) of 1-(1-ethoxyethoxy)-2-propyne in 84 ml of tetrahydrofuran was treated at -78° under argon with 24.4 ml of n-butyllithium (1.6M in hexane). The mixture was stirred at -40° for 30 minutes and then a solution of 4.6 ml (33 mmol) of 4-methylbenzaldehyde in 34 ml of tetrahydrofuran was added within 10 minutes. The reaction mixture was warmed to 0° , stirred at 0° for a further 1 hour and then treated with 60 ml of saturated ammonium chloride solution. The aqueous phase was extracted twice with ether. The combined organic phases were washed in succession with saturated sodium chloride solution and with water, dried over magnesium sulphate and concentrated. The residue was purified by chromatography on 500 g of silica gel (elution agent ether/hexane 1:1). There was obtained 4-(1-ethoxyethoxy)-1-(4-methylphenyl)-2 -butyn-1-ol.

reactant | 1-(1-ethoxyethoxy)-2-propyne | 33 mmol, 5 g | C(C)OC(C)OCC#C | C7H12O2
reactant | n-butyllithium | 1.6M, 24.4 ml | C(CCC)[Li]
reactant | 4-methylbenzaldehyde | 33 mmol, 4.6 ml | CC1=CC=C(C=O)C=C1 | C8H8O
reactant | ammonium chloride | 60 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 84 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 34 ml | O1CCCC1 | C4H8O
product | 4-(1-ethoxyethoxy)-1-(4-methylphenyl)-2 -butyn-1-ol | C(C)OC(C)OCC#CC(O)C1=CC=C(C=C1)C | C15H20O3
